US04096176
In a manner similar to that of part B of Example 1 condensation of 2-(2-methyl-4-(diethylamino)benzoyl)benzoic acid (25 g.) and N,N,N',N'-tetramethyl-m-phenylenediamine (13.2 g.) in contact with acetic anhydride (75 g.) and recrystallization of the resulting product afforded 3-(2,4-bis(dimethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)phthalide (I: X = (CH3)2N, Y2 = CH3, Y4 = (CH3CH2)2N, Z4 = Z5 = Z6 = Z7 = H) in a first crop from toluene (m.p. 204°-206° C.) and in a second crop from a mixture of toluene and hexane (m.p. 191°-195° C.).

reactant | 2-(2-methyl-4-(diethylamino)benzoyl)benzoic acid | 25 g | CC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(CC)CC | C19H21NO3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 13.2 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(2-methyl-4-(diethylamino)phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(CC)CC)C)C | C29H35N3O2
